US04172093
(g) 5'-methoxy-spiro(cyclopentane-1,1'-indan)-3'-one
A mixture of 5'-hydroxy-spiro(cyclopentane-1,1'-indan)-3'-one (20.2 g; 0.1 mole), acetone (1000 ml), anhydrous potassium carbonate (37.5 g) and methyl iodide (50 ml) is refluxed for 5-6 hours. The mixture is evaporated to dryness, after which the residue is taken up in water and trichloroethylene. The trichloroetylene solution is extracted with 2×150 ml of 2 N sodium hydroxide and dried with anhydrous magnesium sulphate. The solvent is distilled off and a yellow oil is obtained, which soon crystallizes, yield 16 g (74%). After recrystallization from n-hexane the substance melts at 80° C.

reactant | 5'-hydroxy-spiro(cyclopentane-1,1'-indan)-3'-one | 0.1 mole, 20.2 g | OC=1C=C2C(CC3(C2=CC1)CCCC3)=O | C13H14O2
reactant | potassium carbonate | 37.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 50 ml | CI | CH3I
solvent | acetone | 1000 ml | CC(=O)C | C3H6O
product | 5'-methoxy-spiro(cyclopentane-1,1'-indan)-3'-one | COC=1C=C2C(CC3(C2=CC1)CCCC3)=O | C14H16O2
